US07781454B2
Step 5: 3-(3-bromo-5-chlorophenoxy)-2-hydrazino-4-methylpyridine
To a solution of 3-(3-bromo-5-chlorophenoxy)-2-chloro-4-methylpyridine (121 mg, 0.363 mmol) in DMSO (1 mL) was added hydrazine hydrate (177 μL, 3.63 mmol) and the mixture was heated at 100° C. for 18 hours. The mixture was then purified on a Luna column (10μ, C18, 250×21.2 cm) eluting with 5-95% ACN/water with 0.1% TFA) to give the title compound. LRMS (M+1)=329.8.

reactant | 3-(3-bromo-5-chlorophenoxy)-2-chloro-4-methylpyridine | 0.363 mmol, 121 mg | BrC=1C=C(OC=2C(=NC=CC2C)Cl)C=C(C1)Cl | C12H8BrCl2NO
reactant | hydrazine hydrate | 3.63 mmol, 177 μL | O.NN
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 3-(3-bromo-5-chlorophenoxy)-2-hydrazino-4-methylpyridine | BrC=1C=C(OC=2C(=NC=CC2C)NN)C=C(C1)Cl | C12H11BrClN3O
